US07691882B2
3-(3-(3-Phenoxy-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine
To a tetrahydrofuran (10.0 mL) solution of (3-phenoxy-phenyl)-acetohydroximoyl chloride (150 mg, 0.573 mmol) described in Manufacturing Example 64-1-3 and 3-ethynyl-pyridin-2-ylamine (30.0 mg, 0.254 mmol) described in Manufacturing Example 1-2-3 was added triethylamine (106 μL, 0.762 mmol) at room temperature, which was stirred for 2 hours at 60° C. Water was added to the reaction solution at room temperature, which was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=1:2), the mixture was further purified by reverse-phase high-performance liquid chromatography (using an acetonitrile-water mobile phase containing 0.1% trifluoracetic acid) to obtain the title compound (6.6 mg, 43%) as a trifluoracetic acid salt.

reactant | tetrahydrofuran | 10.0 mL | O1CCCC1 | C4H8O
reactant | (3-phenoxy-phenyl)-acetohydroximoyl chloride | 0.573 mmol, 150 mg | O(C1=CC=CC=C1)C=1C=C(C=CC1)CC(=NO)Cl | C14H12ClNO2
reactant | 3-ethynyl-pyridin-2-ylamine | 0.254 mmol, 30.0 mg | C(#C)C=1C(=NC=CC1)N | C7H6N2
reactant | triethylamine | 0.762 mmol, 106 μL | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | 3-(3-(3-Phenoxy-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine | 6.6 mg, 43% | O(C1=CC=CC=C1)C=1C=C(CC2=NOC(=C2)C=2C(=NC=CC2)N)C=CC1 | C21H17N3O2
